US05763458
Proceeding as in Example 4, Step (c), but replacing 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloro-pentan-1-one and piperidine with 4-methoxypiperidine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-(4-methoxypiperidin-1-yl)pentan-1-one hydrochloride, m.p. 195-196° C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloro-pentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-methoxypiperidine | COC1CCNCC1 | C6H13NO
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-(4-methoxypiperidin-1-yl)pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)OC)=O)OCC1=CC(=CC(=C1)OC)OC | InChI=1S/C26H35ClN2O5.ClH/c1-31-19-7-10-29(11-8-19)9-5-4-6-25(30)22-15-23(27)24(28)16-26(22)34-17-18-12-20(32-2)14-21(13-18)33-3;/h12-16,19H,4-11,17,28H2,1-3H3;1H
